US05707995
4-Chloro-3-trifluoromethylphenol (10.0 g, 0.051 mol) and 4,6-dichloropyrimidine (3.7 g, 0.025 mol) were heated to 60° C. in dimethylsulphoxide (75 ml) with potassium carbonate (10 g) under nitrogen for 12 hours. The mixture was then poured into water and the product extracted into diethyl ether. The organic layer was dried using Na2 SO4, filtered and concentrated. The product, 4,6-bis(4-chloro-3-tri-fluoromethylphenoxy)pyrimidine, was obtained by column chromatography (eluting with 5:1, hexane:ethyl acetate) and recrystallization (diethyl ether/hexane). Yield 11.0 g (94%); melting point 111° C.

reactant | 4-Chloro-3-trifluoromethylphenol | 0.051 mol, 10.0 g | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
reactant | 4,6-dichloropyrimidine | 0.025 mol, 3.7 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulphoxide | 75 ml | CS(=O)C | C2H6OS
product | 4,6-bis(4-chloro-3-tri-fluoromethylphenoxy)pyrimidine | ClC1=C(C=C(OC2=NC=NC(=C2)OC2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1)C(F)(F)F | C18H8Cl2F6N2O2
